US08669234B2
[1-(4-Cyano-2-{5-[6-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2,2-dimethyl-propyl]-carbamic acid methyl ester:
2-Methoxycarbonylamino-3,3-dimethyl-butyric acid (37 mg, 0.227 mmol) EDC-HCl (44 mg, 0.227 mmol) and HOBt (32 mg, 0.237 mmol) were combined in DMF (2 mL) and stirred for 20 min at RT. (1-{6-[5-(4-{6-[2-(4-Cyano-pyrrolidin-2-yl)-3H-imidazol-4-yl]-naphthalen-2-yl}-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester-tris-hydrochloride (150 mg, 0.189 mg) was added, the reaction mixture was cooled to 0° C. and NMM (0.104 mL, 0.947 mmol) was added dropwise. After 1.5 h, the reaction mixture was warmed to RT. 30 min later, the mixture was diluted with EtOAc and washed with NaHCO3, then 1:1 brine/5M NaOH. The organic phase was dried over MgSO4, then filtered and concentrated. The resulting residue was purified by HPLC to afford the title compound (77 mg, 48%). MS (ESI) m/z 855 [M+H]+.

reactant | 2-Methoxycarbonylamino-3,3-dimethyl-butyric acid | 0.227 mmol, 37 mg | COC(=O)NC(C(=O)O)C(C)(C)C | C8H15NO4
reactant | HOBt | 0.237 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (1-{6-[5-(4-{6-[2-(4-Cyano-pyrrolidin-2-yl)-3H-imidazol-4-yl]-naphthalen-2-yl}-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester-tris-hydrochloride | 150 mg | Cl.Cl.Cl.COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1NC(=NC1)C1NCC(C1)C#N)=O
reactant | NMM | 0.947 mmol, 0.104 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [1-(4-Cyano-2-{5-[6-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2,2-dimethyl-propyl]-carbamic acid methyl ester | 77 mg, 48% | COC(NC(C(C)(C)C)C(=O)N1C(CC(C1)C#N)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CC2(CC2)C1)C(C(C(C)C)NC(=O)OC)=O)=O | C48H55N9O6
